US07745641B2
In a similar manner to Step 2 of Example 1, 4-methanesulfonyloxy-5-methoxy-7-iodoisoindolinone (50.0 mg, 0.130 mmol) was dissolved in acetonitrile (3 mL), and the solution was treated with 1-(tert-butoxycarbonyl)indole-2-boronic acid (68.1 mg, 0.261 mmol), palladium acetate (2.3 mg, 0.010 mmol), tri(o-tolyl)phosphine (6.3 mg, 0.021 mmol) and triethylamine (0.181 mL, 1.30 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=7/3 to 1/1 to 3/7) to obtain 4-methanesulfonyloxy-5-methoxy-7-(1-(tert-butoxycarbonyl)indol-2-yl)isoindolinone (56.9 mg, yield 93%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-iodoisoindolinone | 0.130 mmol, 50.0 mg | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)I)=O | C10H10INO5S
reactant | 1-(tert-butoxycarbonyl)indole-2-boronic acid | 0.261 mmol, 68.1 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | tri(o-tolyl)phosphine | 0.021 mmol, 6.3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 1.30 mmol, 0.181 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.010 mmol, 2.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-methanesulfonyloxy-5-methoxy-7-(1-(tert-butoxycarbonyl)indol-2-yl)isoindolinone | 56.9 mg, yield 93% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C23H24N2O7S
